US07435837B2
Treatment of (±)-1-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (0.290 g, 0.877 mmol) with diisopropylethylamine (0.170 g, 1.315 mmol) followed by benzyl chloroformate (0.165 g, 0.965 mmol) generally according to the procedure described for Intermediate 12 provided 0.352 g (94%) of (±)-benzyl {[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate as a white solid. mp 198-200° C.; Anal. calcd. for C23H19Cl2NO3: C, 64.5; H, 4.47; N, 3.27. Found: C, 64.2; H, 4.43; N, 3.21. Chiral HPLC separation of (±)-benzyl {[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl]carbamate (Chiralcel AD, ethanol:hexane 1:1) provided two fractions. Fraction 1 (Rt=5.174 min, Chiralcel AD, ethanol:hexane 1:1); Fraction 2 (Rt=6.229 min, Chiralcel AD, ethanol:hexane 1:1).

reactant | (±)-1-[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 0.877 mmol, 0.290 g | ClC1=C(C(=CC=C1)Cl)C1=CC=CC=2CC(OC21)CN | C15H13Cl2NO
reactant | diisopropylethylamine | 1.315 mmol, 0.170 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 0.965 mmol, 0.165 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl {[7-(2,6-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate | 0.352 g, 94% | ClC1=C(C(=CC=C1)Cl)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O | C23H19Cl2NO3
